US07691902B2
N-(4′-(Aminomethyl)-6-methylbiphenyl-3-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (40 mg, 0.10 mmol), 3-methylbutanal (8.6 mg, 0.10 mmol) and Ti(OPr)4 (82 μL, 0.30 mmol) were dissolved in dichloromethane (1.0 mL) and mono-glyme (1.0 mL) and allowed to stir at 25° C. for 16 hours. NaBH4 (5.7 mg, 0.15 mmol) was added and the reaction was stirred for an additional 1 h. The reaction was diluted to 5 mL with dichloromethane before water (5 mL) was added. The reaction was filtered through celite to remove the titanium salts and the layers separated. The organic extracts were dried over Na2SO4 and evaporated. The crude product was purified by reverse phase HPLC to afford 1-(benzo[d][1,3]dioxol-5-yl)-N-(4′-((isopentylamino)methyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide (5.7 mg, 10%). ESI-MS m/z calc. 470.3, found 471.5 (M+1)+; retention time 2.76 minutes.

reactant | N-(4′-(Aminomethyl)-6-methylbiphenyl-3-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.10 mmol, 40 mg | NCC1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C25H24N2O3
reactant | 3-methylbutanal | 0.10 mmol, 8.6 mg | CC(CC=O)C | C5H10O
reactant | mono-glyme | 1.0 mL | COCCOC | C4H10O2
reactant | NaBH4 | 0.15 mmol, 5.7 mg | [BH4-].[Na+]
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(4′-((isopentylamino)methyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide | 5.7 mg, 10% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)CNCCC(C)C | C30H34N2O3
